US07557251B2
A second aspect of the invention relates to methods of producing (−)-gossypol acetic acid co-crystals from gossypol acetic acid starting material comprising a mixture of (+)- and (−)-gossypol. In one embodiment the gossypol acetic acid starting material comprising a mixture of (+)- and (−)-gossypol is gossypol acetic acid co-crystals. In a first step in the methods, gossypol acetic acid starting material comprising a mixture of (+)- and (−)-gossypol is derivatized via imine (Schiff base) formation with an optically active amine to form diastereomers. As used herein, the term “imine” includes other tautomers such as eneamine tautomers and stereoisomers thereof. The invention further encompasses alternative structures that may be formed from the derivatization of gossypol with an amine (e.g., an oxazolidine). In one embodiment, the optically active amine is L-phenylalanine methyl ester, S-1-methylphenethylamine, or L-phenylalaminol or the corresponding HCl salt. The derivatization may be carried out in the absence of oxygen, e.g., under a nitrogen purge. The derivatization is carried out in the presence of a nonpolar and/or polar solvent, e.g., dichloromethane and/or isopropanol, for a time period of about 0.5 to about 3 hours, e.g., about 1 hour to about 2 hours. A dehydrating agent such as sodium sulfate or a molecular sieve, e.g., type 3 Å, is then added, along with suitable reagents for buffering the reaction mix at a pH of about 5 to about 7, e.g., about 6. One suitable buffering agent is sodium bicarbonate. The reaction mixture is then stirred for at least about 15 minutes, e.g., at least about 30 minutes. The progression of the reaction may be monitored for completion. For example, the reaction mixture may be assayed for the absence of gossypol using thin layer chromatography (TLC) or preferably in real time by high pressure liquid chromatography (HPLC). If the reaction is incomplete, the pH may be adjusted back to about 6 by adding further buffering agents. The reaction is then continued for about 24 hours and again checked for completion of the reaction. After completion, the reaction mixture may be filtered to remove the solids and the solids washed with additional non-polar solvent, e.g., dichloromethane. The filtrates may then be evaporated to dryness, e.g., with a rotary evaporator with the bath set at about 30° C. to about 40° C.

reactant | (−)-gossypol acetic acid | CC1=C(C(=C2C(=C1)C(=C(C(=C2C=O)O)O)C(C)C)O)C3=C(C=C4C(=C3O)C(=C(C(=C4C(C)C)O)O)C=O)C.CC(=O)O
reactant | gossypol acetic acid | CC1=CC=2C(=C(C(=C(C2C(C)C)OC(=O)C)OC(=O)C)C=O)C(=C1C=3C(=CC4=C(C3OC(=O)C)C(=C(C(=C4C(C)C)OC(=O)C)OC(=O)C)C=O)C)OC(=O)C | C42H42O14
product | gossypol | CC1=CC=2C(=C(C(=C(C2C(C)C)O)O)C=O)C(=C1C=3C(=CC4=C(C3O)C(=C(C(=C4C(C)C)O)O)C=O)C)O | C30H30O8
